US08609676B2
To a solution of 4-chloro-5-methoxy-6-p-tolylpyrimidine P5 (100 mg, 0.43 mmol) in DMF (2 mL) and NMP (0.5 mL) was added triethylenediamine (62 mg, 0.55 mmol) and potassium cyanide (55 mg, 0.85 mmol). The reaction mixture was stirred at room temperature for 18 hours. Dichloromethane and 1 N hydrochloric acid were added. The organic layer was dried over anhydrous sodium sulfate. The organic solvent was evaporated under reduced pressure. The crude product was purified by flash column chromatography to afford the desired 5-hydroxy-6-p-tolylpyrimidine-4-carbonitrile P69 (70 mg, 0.33 mmol).

reactant | 4-chloro-5-methoxy-6-p-tolylpyrimidine | ClC1=NC=NC(=C1OC)C1=CC=C(C=C1)C | C12H11ClN2O
reactant | triethylenediamine | 0.55 mmol, 62 mg | C1CN2CCN1CC2 | C6H12N2
reactant | potassium cyanide | 0.85 mmol, 55 mg | [C-]#N.[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Dichloromethane | ClCCl | CH2Cl2
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | 5-hydroxy-6-p-tolylpyrimidine-4-carbonitrile | OC=1C(=NC=NC1C1=CC=C(C=C1)C)C#N | C12H9N3O
